US04963566
8-t-butyldimethylsilyloxymethyl-4-hydroxy-1-ethyl-1,2,3,4-tetrahydroquinoline (2.19 g) was dissolved in dimethyl formamide (15 ml), followed by addition of sodium hydride (60% in oil, 0.33 g), and allyl bromide (0.99 g) was added thereto under ice-cooling. The mixture was stirred for 2.5 hours at the same temperature. Furthermore sodium hydride (60% in oil, 0.16 g) and allyl bromide (0.48 g) were added to the reaction mixture and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture. The mixture was extracted with ethyl acetate-toluene and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography [eluent: n-hexane-ethyl acetate (6 : 1)]to give 8-t-butyldimethylsilyloxymethyl-4-allyloxy-1-ethyl-1,2,3,4-tetrahydroquinoline (1.83 g).

reactant | 8-t-butyldimethylsilyloxymethyl-4-hydroxy-1-ethyl-1,2,3,4-tetrahydroquinoline | 2.19 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)O | C18H31NO2Si
reactant | sodium hydride | 0.33 g | [H-].[Na+]
reactant | allyl bromide | 0.99 g | C(C=C)Br | C3H5Br
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | allyl bromide | 0.48 g | C(C=C)Br | C3H5Br
reactant | Water | O | H2O
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
product | 8-t-butyldimethylsilyloxymethyl-4-allyloxy-1-ethyl-1,2,3,4-tetrahydroquinoline | 1.83 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)OCC=C | C21H35NO2Si
